US04935430
(d) 3-Amino-4(4-cyanophenyl)amino-2,6-dimethylpyridine
A solution of 4-(4-cyanophenyl)amino-2,6-dimethyl-3-nitropyridine (5.00 g, 18.6 mmol) in a mixture of dichloromethane (20 ml) and ethanol (100 ml) was hydrogenated at 20° C. over 10% palladium on charcoal (500 mg) at 138 kPa (20 p.s.i) for 3 hours. The catalyst was filtered off and the solvents were removed under reduced pressure to give the title compound as a brown solid (4.20 g, 94%).

reactant | 4-(4-cyanophenyl)amino-2,6-dimethyl-3-nitropyridine | 18.6 mmol, 5.00 g | C(#N)C1=CC=C(C=C1)NC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C14H12N4O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 3-Amino-4(4-cyanophenyl)amino-2,6-dimethylpyridine | 4.20 g, 94% | NC=1C(=NC(=CC1NC1=CC=C(C=C1)C#N)C)C | C14H14N4
